US04264605
2-AMINO-5-(4-CHLOROPHENYLTHIO)PYRIDINE
2-Nitro-5-(4-chlorophenylthio)pyridine (10.5 grams), ammonium chloride (50.0 grams), and powdered iron (30.0 grams) were reacted in the same procedures reported in Example 3. The reaction mixture was filtered hot solvents were removed. The product was extracted with ethyl acetate, washed with water, the ethyl acetate removed, and the product crystallized from ethyl acetate-hexanes, yield 4.5 grams, m.p. 157°-159° C.

reactant | 2-Nitro-5-(4-chlorophenylthio)pyridine | 10.5 grams | [N+](=O)([O-])C1=NC=C(C=C1)SC1=CC=C(C=C1)Cl | C11H7ClN2O2S
reactant | ammonium chloride | 50.0 grams | [Cl-].[NH4+]
catalyst | iron | 30.0 grams | [Fe] | Fe
product | 2-AMINO-5-(4-CHLOROPHENYLTHIO)PYRIDINE | NC1=NC=C(C=C1)SC1=CC=C(C=C1)Cl | C11H9ClN2S
